US04343811
Ethyl-2-methyl-2-[2-phenyl-1-propyl-1H-indole-5-yloxy]propanoate
The above compound was prepared from 2-phenyl-1-propyl-1H-indole-5-ol and ethyl 2-bromo-2-methyl-propanoate using a procedure analogous to that of Example 10.

reactant | 2-phenyl-1-propyl-1H-indole-5-ol | C1(=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O)CCC | C17H17NO
reactant | ethyl 2-bromo-2-methyl-propanoate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl-2-methyl-2-[2-phenyl-1-propyl-1H-indole-5-yloxy]propanoate | C(C)OC(C(C)(OC=1C=C2C=C(N(C2=CC1)CCC)C1=CC=CC=C1)C)=O | C23H27NO3
